US06599917B1
b) 2-Benzyl-6-(1,4-dihydroxycyclohexyl)-3-hydroxypyridine
67.4 mg of sodium borohydride was added to a mixture of 353 mg of 2-benzyl-3-hydroxy-6-(4-oxo-1-hydroxycyclohexyl)pyridine and 4 ml of methanol under ice-cooling, followed by stirring at the same temperature for one hour. Acetone was added thereto, and the solvent was removed. Then, the residue was subjected to silica gel column chromatography using 20% hexane/ethyl acetate, to give 193 mg of the target compound.

reactant | sodium borohydride | 67.4 mg | [BH4-].[Na+]
reactant | 2-benzyl-3-hydroxy-6-(4-oxo-1-hydroxycyclohexyl)pyridine | 353 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1O)C1(CCC(CC1)=O)O | C18H19NO3
reactant | methanol | 4 ml | CO | CH4O
solvent | Acetone | CC(=O)C | C3H6O
product | 2-Benzyl-6-(1,4-dihydroxycyclohexyl)-3-hydroxypyridine | 193 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1O)C1(CCC(CC1)O)O | C18H21NO3
